US08431695B2
Preparation of 4-{4-amino-5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]pyrrolo-[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethylpiperidine-1-carboxamide
In a manner similar to the procedure described for Example 369 and using 5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting dimethycarbamyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 20 mg (49%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 8.05 (s, 1 H) 7.89 (s, 1 H) 7.78 (d, 1 H) 7.74 (s, 1 H) 7.33-7.39 (m, 2 H) 7.24 (dd, 1 H) 7.10 (ddd, 2 H) 6.59 (s, 1 H) 5.61 (s, 2 H) 3.79 (d, 2 H) 3.38-3.47 (m, 1 H) 2.97 (td, 2 H) 2.84 (s, 6 H) 2.17 (d, 1 H) 2.14 (s, 1 H) 1.76-1.71 (m, 2 H). LC-MS [M+H]+=513.1, RT=2.57 min.

reactant | 5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | FC1=CC=C(CN2N=C3C=C(C=CC3=C2)C=2C=C(N3N=CN=C(C32)N)C3CCNCC3)C=C1 | C25H24FN7
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 4-{4-amino-5-[2-(4-fluorobenzyl)-2H-indazol-6-yl]pyrrolo-[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethylpiperidine-1-carboxamide | 20 mg, 49% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)N(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=C(C=C2)F | C28H29FN8O
